US05084085
A stirred mixture of 0.59 g (0.0014 mole) of 4-[2-chloro-4-fluoro-5-(4-difluoromethyl -4,5-dihydro-3-methyl-5-oxo-1H-1,2,4 triazol-1-yl)phenoxy]phenyl-carboxylic acid chloride and 0.17 g (0.0014 mole) of 2-sulfamylpropane was heated at 195° C. for approximately 15 minutes. The mixture was cooled and 2 mL of methylene chloride was added. The mixture was allowed to stand at room temperature for approximately 18 hours. A brown solid formed, was collected and triturated with petroleum ether. Recovery of the solid by filtration gave 0.58 g of N-(1-methylethyl)sulfonyl-4-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]phenylcarboxamide as a solid, m.p. 185°-187° C., Compound 130 of Table 1.

reactant | 4-[2-chloro-4-fluoro-5-(4-difluoromethyl -4,5-dihydro-3-methyl-5-oxo-1H-1,2,4 triazol-1-yl)phenoxy]phenyl-carboxylic acid chloride | 0.0014 mole, 0.59 g | ClC1=C(OC2=CC=C(C=C2)C(=O)Cl)C=C(C(=C1)F)N1N=C(N(C1=O)C(F)F)C | C17H10Cl2F3N3O3
reactant | 2-sulfamylpropane | 0.0014 mole, 0.17 g | S(N)(=O)(=O)C(C)C | C3H9NO2S
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-(1-methylethyl)sulfonyl-4-[2-chloro-4-fluoro-5-(4-difluoromethyl-4,5-dihydro-3-methyl-5-oxo-1H-1,2,4-triazol-1-yl)phenoxy]phenylcarboxamide | 0.58 g | CC(C)S(=O)(=O)NC(=O)C1=CC=C(C=C1)OC1=C(C=C(C(=C1)N1N=C(N(C1=O)C(F)F)C)F)Cl | C20H18ClF3N4O5S
